US06159902
A solution of 1-bromocyclohex-2-ene (7.2 g) in tetrahydrofuran was added dropwise during 0.5 hour to a stirred mixture of 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropionaldehyde (4.0 g) and zinc powder (3.2 g) in tetrahydrofuran below -20° C. under an inert atmosphere. The mixture was stirred for 1 hour below -20° C. and warmed to 20° C. Ethyl acetate and water were added and the organic phase washed (brine), dried (magnesium sulphate), evaporated and purified by silica gel column chromatography, eluting with n-hexane/ethyl acetate (5:2) to give 1-(cyclohex-2-enyl)-2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropan-1-ol (5.1 g), NMR: 1.41(s,3H), 1.53(s,3H), 1.85(s,3H), 1.40-2.05(6H), 2.24(1H), 3.49(1H), 4.32(d,1H), 5.1 1(d 5.24(d,1H), 5.60(1H), 5.76(1H), 7.20-7.40(5H).

reactant | 1-bromocyclohex-2-ene | 7.2 g | BrC1C=CCCC1 | C6H9Br
reactant | 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropionaldehyde | 4.0 g | CC1=C(C(N(CO1)C(C=O)(C)C)=O)C1=CC=CC=C1 | C15H17NO3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | zinc | 3.2 g | [Zn] | Zn
product | 1-(cyclohex-2-enyl)-2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropan-1-ol | 5.1 g | C1(C=CCCC1)C(C(C)(C)N1COC(=C(C1=O)C1=CC=CC=C1)C)O | C21H27NO3
